### PR TITLE
Same-domain monotonicity property for isolated threads

### PR DESCRIPTION
**Pull request by stellamplau**
This PR sets up initial proof infrastructure for reasoning about the spec, proving a first property about monotonicity for isolated threads running in the same domain to guide the development.

Additions:
- Lemmas about monotonicity, `ReachableCaps`, memory updates, separation, and well-formed general instructions. 
- An outline of the initial configuration and state of a machine, along with a global proof that a machine step preserves register file size.
- A statement and proof of a same-domain monotonicity property for isolated threads, that is from any initial machine configured such that threads have disjoint read/write caps, after any sequence of same-domain steps, the reachable caps of each thread will be a subset of their reachable caps from the initial state.
- Various tactics and list lemmas

### CODE REVIEW

**Comment by vmurali** [comment]
https://github.com/Cherified/cheriot-abstract-spec/pull/6

File: src/SpecLemmas.v [hunk 1]
```diff
@@ -0,0 +1,628 @@
...
+        ReachableCaps mem (c1 ++ cs) (c2 ++ cs).
+    Proof.
+      cbv[ReachableCaps].
+      intros * Hin * Hin2.
+      apply in_app_or in Hin2.
+      destruct_or! Hin2.
+      - eapply ReachableCapIncrease; eauto. apply Subset_app.
+      - constructor. apply in_app_iff; auto.
+    Qed.
+    Lemma ReachableCapSubsetImpliesReachableCap:
```
Comment (vmurali) [inline src/SpecLemmas.v:114]: Isn't this the literal definition?

**Review by vmurali — APPROVED** [review]
